US09301951B2
Intermediate 21a: N-(3-(trifluoromethyl)benzyl)-2-bromoisonicotinamide
Into a 250-mL round bottom flask, was placed a solution of 2-bromoisonicotinic acid (1.4 g, 6.93 mmol, 1.20 equiv) in dichloromethane (50 mL), EDC.HCl (1.64 g, 8.56 mmol, 1.50 equiv), 4-dimethylaminopyridine (1.04 g, 8.51 mmol, 1.50 equiv), and 3-(trifluoromethyl)benzylamine (1.0 g, 5.71 mmol, 1.00 equiv). The resulting solution was stirred overnight at 25° C. in an oil bath. The resulting solution was diluted with 100 mL of dichloromethane. The resulting mixture was washed with 2×50 mL of sat. NH4Cl, 2×50 mL of sat. Na2CO3, and 2×50 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:10-1:5). The product was obtained as 1.2 g (59%) of a white solid.

reactant | 2-bromoisonicotinic acid | 6.93 mmol, 1.4 g, 1.20 equiv | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | EDC.HCl | 8.56 mmol, 1.64 g, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
reactant | 3-(trifluoromethyl)benzylamine | 5.71 mmol, 1.0 g, 1.00 equiv | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 8.51 mmol, 1.04 g, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(3-(trifluoromethyl)benzyl)-2-bromoisonicotinamide | 1.2 g, 59% | FC(C=1C=C(CNC(C2=CC(=NC=C2)Br)=O)C=CC1)(F)F | C14H10BrF3N2O
